US07101871B2
Step C: tert-Butyl (2R)-Hexahydro-2-methyl-3-oxo-1H-1,4-diazepine-1-carboxylate
To a 2M solution of trimethylaluminum in dichloromethane (30 mL) was added slowly a solution of methyl N-(3-aminopropyl)-N-(tert-butoxycarbonyl)-D-alaninate (11.5 g) in dichloromethane. The reaction mixture was stirred at room temperature for four days and then poured into a flask containing 30 g of Celite. The mixture was stirred and quenched by the slow addition of ˜10 mL of saturated aqueous ammonium chloride solution. Sodium sulfate (20 g) and methanol (50 mL) were added. The mixture was stirred for 1 h, then filtered. The solids were washed with 5% methanol/dichloromethane. The filtrate was concentrated. The residue was purified by flash chromatography (silica gel, eluting sequentially with 4, 6, 7 and 12% of 10:1 methanol/aqueous concentrated ammonium hydroxide in dichloromethane) to provide the title compound containing less than 3% of the (3S)-isomer.

reactant | trimethylaluminum | C[Al](C)C
reactant | methyl N-(3-aminopropyl)-N-(tert-butoxycarbonyl)-D-alaninate | 11.5 g | NCCCN([C@H](C)C(=O)OC)C(=O)OC(C)(C)C | C12H24N2O4
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | tert-Butyl (2R)-Hexahydro-2-methyl-3-oxo-1H-1,4-diazepine-1-carboxylate | C[C@H]1N(CCCNC1=O)C(=O)OC(C)(C)C | C11H20N2O3
